US08609688B2
tert-Butyl (1-{4-[2-(2-aminopyridin-3-yl)-5-{3-[(2-hydroxyethyl)amino]phenyl}-3H-imidazo[4,5-b]pyridin-3-yl]phenyl}cyclobutyl)carbamate
A mixture of tert-butyl (1-{4-[2-(2-aminopyridin-3-yl)-5-chloro-3H-imidazo[4,5-b]pyridin-3-yl]phenyl}cyclobutyl)carbamate (70.0 mg, 0.143 mmol), 2-{[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]amino}ethanol (75.0 mg, 0.285 mmol), bis(di-tert-butyl(4-dimethylaminophenyl) phosphine)dichloropalladium(II) (10.1 mg, 0.0143 mmol), and 2M NaOH aq. (0.430 mL, 0.214) in DMF (2 mL) was heated at 160° C. for 1 hour under microwave irradiation. After cooling to room temperature, the mixture was diluted with EtOAc and washed with water (3×) and brine. The combined organic layers were dried over anhydrous Na2SO4 and concentrated. The residue was purified by silica gel column chromatography (CHCl3/EtOAc=1:1→1:2→EtOAc) to afford desired product (73.0 mg, 86.5%) as yellow solid.

reactant | tert-butyl (1-{4-[2-(2-aminopyridin-3-yl)-5-chloro-3H-imidazo[4,5-b]pyridin-3-yl]phenyl}cyclobutyl)carbamate | 0.143 mmol, 70.0 mg | NC1=NC=CC=C1C1=NC=2C(=NC(=CC2)Cl)N1C1=CC=C(C=C1)C1(CCC1)NC(OC(C)(C)C)=O | C26H27ClN6O2
reactant | 2-{[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]amino}ethanol | 0.285 mmol, 75.0 mg | CC1(OB(OC1(C)C)C=1C=C(C=CC1)NCCO)C | C14H22BNO3
reactant | NaOH | 2M, 0.430 mL | [OH-].[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | bis(di-tert-butyl(4-dimethylaminophenyl) phosphine)dichloropalladium(II) | 0.0143 mmol, 10.1 mg | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
product | tert-Butyl (1-{4-[2-(2-aminopyridin-3-yl)-5-{3-[(2-hydroxyethyl)amino]phenyl}-3H-imidazo[4,5-b]pyridin-3-yl]phenyl}cyclobutyl)carbamate | 73.0 mg, 86.5% | NC1=NC=CC=C1C1=NC=2C(=NC(=CC2)C2=CC(=CC=C2)NCCO)N1C1=CC=C(C=C1)C1(CCC1)NC(OC(C)(C)C)=O | C34H37N7O3
